US07645789B2
2-tert-Butyl-5-nitro-1H-indole-7-carbonitrile (4.6 g, 19 mmol) was added to a solution of KOH in EtOH (10%, 100 mL) and the mixture was heated at reflux overnight. The solution was evaporated to remove alcohol, a small amount of water was added, and then the mixture was acidified with dilute hydrochloric acid. Upon standing in the refrigerator, an orange-yellow solid precipitated, which was purified by chromatography on silica gel (15% EtOAc in petroleum ether) to afford 2-tert-butyl-5-nitro-1H-indole-7-carboxylic acid (4.0 g, 77%). 1H NMR (CDCl3, 300 MHz) δ 10.79 (brs, 1H), 8.66 (s, 1H), 8.45 (s, 1H), 6.57 (s, 1H), 1.39 (s, 9H).

reactant | 2-tert-Butyl-5-nitro-1H-indole-7-carbonitrile | 19 mmol, 4.6 g | C(C)(C)(C)C=1NC2=C(C=C(C=C2C1)[N+](=O)[O-])C#N | C13H13N3O2
reactant | KOH | [OH-].[K+]
reactant | EtOH | 100 mL | CCO | C2H6O
product | 2-tert-butyl-5-nitro-1H-indole-7-carboxylic acid | 4.0 g, 77% | C(C)(C)(C)C=1NC2=C(C=C(C=C2C1)[N+](=O)[O-])C(=O)O | C13H14N2O4
